US08871754B2
To a solution of 2-amino-5-fluorophenol (1.0 g, 7.87 mmol) in dichloromethane (50 mL) at 0° C. was added 2-Chloroacetyl chloride (978 mg, 8.66 mmol). The reaction mixture was stirred at rt for 2 h, followed by addition of aqueous saturated NaOH solution. The organic layer was washed with brine, dried over Na2SO4 and solvent was removed under reduced pressure to afford 550 mg (35%) of 2-chloro-N-(4-fluoro-2-hydroxyphenyl)acetamide (I-21) as a brown solid. ESI-LC/MS (m/z): (M−H)− 201.6, RT 2.65 min.

reactant | 2-amino-5-fluorophenol | 7.87 mmol, 1.0 g | NC1=C(C=C(C=C1)F)O | C6H6FNO
reactant | 2-Chloroacetyl chloride | 8.66 mmol, 978 mg | ClCC(=O)Cl | C2H2Cl2O
reactant | NaOH | [OH-].[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-chloro-N-(4-fluoro-2-hydroxyphenyl)acetamide | 550 mg, 35% | ClCC(=O)NC1=C(C=C(C=C1)F)O | C8H7ClFNO2
